US05733849
2-chloro-N,N-diallylacetamide;
N-(1,1-dimethyl-2-propynyl)-3,5-dichlorobenzamide; maleic hydrazide; 3-amino-1,2,4-triazole; monosodium methanearsonate; disodium methanearsonate; N,N-dimethyl-alpha,alpha-diphenylacetamide; N-N-di(n-propyl)-2,6-dinitro-4-(trifiuoromethyl)aniline; N,N-di(n-propyl)-2,6-dinitro-4-methylaniline; N,N-di(n-propyl)-2,6-dinitro-4-methylsulfonylaniline; O-(2,4-dichlorophenyl)-O-methyl isopropylphosphoramidothioate; 4-amino-3,5,6-trichloropicolinic acid; 2,3-dichloro-1,4-naphthoquinone; di(methoxythiocarbonyl)disulfide; 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-(4)3H-one-2,2-dioxide; 6,7-dihydrodipyridol[1,2-a:2',1'-c]pyrazidiium salts; 1,1'-dimethyl-4,4'-bipyridinium salts; 3,4,5,6-tetrahydro-3,5-dimethyl-2-thio-2H-1,3,5-thiadiazine; 2-[1-(ethoxyimino)butyl]-5-[s-(ethylthio)propyl]-3-hydroxy-2-cyclohexen-1-one; 2-(2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone; N-(1-ethylpropyl)-3,4-dimethyl-2,6-dinitrobenzamide; 4-chloro-5-(methylamino)-2-(α,α,α-trifluoro-m-toluyl-3-(2H)-pyridazinone; 2-(3,5-dichlorophenyl)-2-(2,2,2-trichloromethyl)oxirane.

reactant | N-(1,1-dimethyl-2-propynyl)-3,5-dichlorobenzamide | CC(C#C)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C12H11Cl2NO
reactant | maleic hydrazide | C(\C=C/C(=O)O)(=O)NN | C4H6N2O3
reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
reactant | monosodium methanearsonate | C[As](O)(=O)[O-].[Na+]
reactant | disodium methanearsonate | C[As]([O-])(=O)[O-].[Na+].[Na+]
reactant | N,N-dimethyl-alpha,alpha-diphenylacetamide | CN(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C16H17NO
reactant | N,N-di(n-propyl)-2,6-dinitro-4-methylaniline | C(CC)N(C1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])CCC | C13H19N3O4
reactant | N,N-di(n-propyl)-2,6-dinitro-4-methylsulfonylaniline | C(CC)N(C1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)C)[N+](=O)[O-])CCC | C13H19N3O6S
reactant | 4-amino-3,5,6-trichloropicolinic acid | NC1=C(C(=NC(=C1Cl)Cl)C(=O)O)Cl | C6H3Cl3N2O2
reactant | 2,3-dichloro-1,4-naphthoquinone | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | di(methoxythiocarbonyl)disulfide | COC(=S)SSC(=S)OC | C4H6O2S4
reactant | 1,1'-dimethyl-4,4'-bipyridinium | C[N+]1=CC=C(C=C1)C1=CC=[N+](C=C1)C
reactant | 2-(2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone | ClC1=C(C=CC=C1)CN1OCC(C1=O)(C)C | C12H14ClNO2
reactant | N-(1-ethylpropyl)-3,4-dimethyl-2,6-dinitrobenzamide | C(C)C(CC)NC(C1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-])=O | C14H19N3O5
reactant | α,α,α-trifluoro-m-toluyl-3-(2H)-pyridazinone | FC(C1=CC(=CC=C1)N1N=CC=CC1=O)(F)F | C11H7F3N2O
product | 2-chloro-N,N-diallylacetamide | ClCC(=O)N(CC=C)CC=C | C8H12ClNO
